US05047540
A solution of 88 mg (0.136 mM) of 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoylthiopropane IIa6 in 1 ml of quinoline is stirred at 45° C. for 2 days and the product is isolated by extraction with a mixture of chloroform-methanol and the organic layer is washed with 5.7% hydroiodic acid twice and with water once and the solvent is evaporated. The residue is recrystallized from acetone to give 2-methoxy-1-octadecylcarbamoylthio-3-(3-quinoliniopropylsulfonylamino)propane iodide Ia25.

reactant | 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoylthiopropane | 0.136 mM, 88 mg | ICCCS(=O)(=O)NCC(CSC(NCCCCCCCCCCCCCCCCCC)=O)OC | C26H53IN2O4S2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
reactant | quinoline | 1 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 2-methoxy-1-octadecylcarbamoylthio-3-(3-quinoliniopropylsulfonylamino)propane iodide | [I-].COC(CSC(NCCCCCCCCCCCCCCCCCC)=O)CNS(=O)(=O)CCC[N+]1=CC=CC2=CC=CC=C12 | InChI=1S/C35H59N3O4S2.HI/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-20-26-36-35(39)43-31-33(42-2)30-37-44(40,41)29-22-28-38-27-21-24-32-23-18-19-25-34(32)38;/h18-19,21,23-25,27,33,37H,3-17,20,22,26,28-31H2,1-2H3;1H
